US06083961
A mixture of 3-benzyloxy-2-amino-N-methylaniline (400 mg), lactic acid (473.8 mg) and 4N hydrochloric acid (1.6 ml) was refluxed for 1.5 hours. After cooling, the mixture was adjusted to pH 8 with 28% ammonia solution, and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=2:1, v/v) to give 4-benzyloxy-2-(1-hydroxyethyl)-1-methyl-1H-benzimidazole (96.2 mg).

reactant | 3-benzyloxy-2-amino-N-methylaniline | 400 mg | C(C1=CC=CC=C1)OC=1C(=C(NC)C=CC1)N | C14H16N2O
reactant | lactic acid | 473.8 mg | C(C(O)C)(=O)O | C3H6O3
reactant | hydrochloric acid | 4N, 1.6 ml | Cl | ClH
reactant | ammonia | N | H3N
product | 4-benzyloxy-2-(1-hydroxyethyl)-1-methyl-1H-benzimidazole | 96.2 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(=NC21)C(C)O)C | C17H18N2O2
